US07964293B2
Into a flask, 5.00 g of 2-chloroanthracene, 4.3 g of phenylboronic acid, 538 mg of tris(dibenzylieneacetone)dipalladium(0), 494 mg of tricyclohexyl phosphine, 9.98 g of tripotassium phosphate, and 75 ml of toluene were put, and the solution was stirred at reflux temperature for 2 hours under argon atmosphere. After heating, 1.5 liter of toluene was added to the reaction liquid, the liquid was cooled to room temperature and then filtrated, and thus the filtrates were purified by silica gel column chromatography. The filtrates were concentrated in an evaporator, the concentrates were recrystallized in toluene, and thus 5.0 g of 2-phenylanthracene was obtained.

reactant | 2-chloroanthracene | 5.00 g | ClC1=CC2=CC3=CC=CC=C3C=C2C=C1 | C14H9Cl
reactant | phenylboronic acid | 4.3 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | tripotassium phosphate | 9.98 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | tricyclohexyl phosphine | 494 mg | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
solvent | toluene | 1.5 liter | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
product | 2-phenylanthracene | 5.0 g | C1(=CC=CC=C1)C1=CC2=CC3=CC=CC=C3C=C2C=C1 | C20H14
